US09388177B2
(4-{[(2R)-2-(4-fluorophenyl)propanoyl]amino}phenyl)boronic acid
To a stirred solution of (4-aminophenyl)boronic acid hydrochloride (2.00 g) in DMF (42 mL) was added sodium bicarbonate (2.9 g), (2R)-2-(4-fluorophenyl)propanoic acid (2.04 g) and HATU (6.58 g). The mixture was stirred at room temperature for 72 h. Water (140 mL) was added, and the mixture was stirred for 2 h. The white precipitate was collected by filtration and was washed with water and was dried in vacuum to give 2.86 g of the title compound.

reactant | (4-aminophenyl)boronic acid hydrochloride | 2.00 g | Cl.NC1=CC=C(C=C1)B(O)O
reactant | sodium bicarbonate | 2.9 g | C([O-])(O)=O.[Na+]
reactant | (2R)-2-(4-fluorophenyl)propanoic acid | 2.04 g | FC1=CC=C(C=C1)[C@H](C(=O)O)C | C9H9FO2
reactant | HATU | 6.58 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 42 mL | CN(C)C=O | C3H7NO
solvent | Water | 140 mL | O | H2O
product | (4-{[(2R)-2-(4-fluorophenyl)propanoyl]amino}phenyl)boronic acid | 2.86 g | FC1=CC=C(C=C1)[C@H](C(=O)NC1=CC=C(C=C1)B(O)O)C | C15H15BFNO3
